US08133882B2
To a 5.0 ml DMF solution of 144 mg of 7-(cyclohexylamino)-6-fluoro-3-hydroxy-1-isopropylquinolin-4(1H)-one were added 313 mg of potassium carbonate and 100 μl of ethyl bromoacetate in that order, followed by overnight stirring at room temperature. Aqueous saturated ammonium chloride was added to the reaction mixture, followed by extraction with ethyl acetate. After drying over anhydrous sodium sulfate and subsequent evaporation under a reduced pressure, the residue was purified by silica gel column chromatography to obtain 159 mg of ethyl {[7-(cyclohexylamino)-6-fluoro-1-isopropyl-4-oxo-1,4-dihydroquinolin-3-yl]oxy}acetate.

reactant | 7-(cyclohexylamino)-6-fluoro-3-hydroxy-1-isopropylquinolin-4(1H)-one | 144 mg | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C(C)C)O)=O)F | C18H23FN2O2
reactant | potassium carbonate | 313 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 100 μl | BrCC(=O)OCC | C4H7BrO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | DMF | 5.0 ml | CN(C)C=O | C3H7NO
product | ethyl {[7-(cyclohexylamino)-6-fluoro-1-isopropyl-4-oxo-1,4-dihydroquinolin-3-yl]oxy}acetate | 159 mg | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C(C)C)OCC(=O)OCC)=O)F | C22H29FN2O4
